US08629137B2
Step 2: 3-fluoro-5-(4-methyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-benzonitrile
1.84 g (10.0 mmol) 3-cyano-5-fluoro-benzoic acid chloride, 1.49 g (10.0 mmol) 4-methyl-3H-benzoxazol-2-one and 5.33 g (40.0 mmol) aluminium trichloride were heated to 125° C. for 1.5 h with stirring. Then the mixture was mixed with ice water. The precipitate formed was suction filtered, washed with water and dried i. vac.

reactant | 3-cyano-5-fluoro-benzoic acid chloride | 10.0 mmol, 1.84 g | C(#N)C=1C=C(C(=O)Cl)C=C(C1)F | C8H3ClFNO
reactant | 4-methyl-3H-benzoxazol-2-one | 10.0 mmol, 1.49 g | CC1=CC=CC2=C1NC(O2)=O | C8H7NO2
reactant | aluminium trichloride | 40.0 mmol, 5.33 g | [Cl-].[Cl-].[Cl-].[Al+3]
product | 3-fluoro-5-(4-methyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-benzonitrile | FC=1C=C(C#N)C=C(C1)C(=O)C1=CC2=C(NC(O2)=O)C(=C1)C | C16H9FN2O3
